US06015818
To a solution of 2,6-dimethyl-3-nitrobenzyl acetate (26.9 g) in methanol (266 ml) was added aqueous 1N sodium hydroxide solution (133 ml) at ambient temperature for 30 minutes. To the mixture was added water, and the precipitate was collected by filtration to give 2,6-dimethyl-3-nitrobenzyl alcohol (18.0 g) as pale yellow crystals.

reactant | 2,6-dimethyl-3-nitrobenzyl acetate | 26.9 g | C(C)(=O)OCC1=C(C(=CC=C1C)[N+](=O)[O-])C | C11H13NO4
reactant | sodium hydroxide | 1N, 133 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 266 ml | CO | CH4O
product | 2,6-dimethyl-3-nitrobenzyl alcohol | 18.0 g | CC1=C(CO)C(=CC=C1[N+](=O)[O-])C | C9H11NO3
